US07358378B2
Tris(trimethylsiloxy)ethane
To a 0.5 M THF solution of LHMDS (200 mL, 0.1 mol) at 0° C. was added the trimethylsilyl-2-(trimethylsiloxy)acetate (23.9 mL, 0.1 mol) drop-wise over 15 minute and the mixture was stirred at this temperature for an additional 15 min to generate the lithium enolate. Trimethylsilyl chloride (12.5 mL, 0.1 mol) was added over 15 minutes to trap the enolate as the tris(trimethylsiloxy)ethene product. The mixture was warmed to ambient temperature and the THF solvent was removed by vacuum rotary evaporation at 40° C. to precipitate out the lithium chloride. The mixture was taken up in 300 mL of hexanes and 5 mL of triethylamine and stirred for 5 min; the salt was allowed to settle. The supernatant was filtered through a pad of diatomaceous earth twice to give a clear solution. The solution was concentrated under rotary evaporation to give the lightly yellow colored oil product. The solution was concentrated under rotary evaporation to give the lightly yellow colored oil product identical to the commercial product. Bp=90° C. at 1 mmHg.

reactant | LHMDS | 0.1 mol, 200 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | trimethylsilyl-2-(trimethylsiloxy)acetate | 0.1 mol, 23.9 mL | C[Si](C)(C)OC(CO[Si](C)(C)C)=O | C8H20O3Si2
reactant | Trimethylsilyl chloride | 0.1 mol, 12.5 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | tris(trimethylsiloxy)ethene | C[Si](OC=C(O[Si](C)(C)C)O[Si](C)(C)C)(C)C | C11H28O3Si3
solvent | THF | 0.5 M | C1CCOC1 | C4H8O
product | Tris(trimethylsiloxy)ethane | C[Si](OC(C)(O[Si](C)(C)C)O[Si](C)(C)C)(C)C | C11H30O3Si3
